US05372800
2,4,6-Triiodophenol perfluoroheptanoate
A mixture of 2,4,6-triiodophenol (2.0 g, 4.24 mmol), perfluoroheptanoic anhydride (10.3 g, 12.7 mmol, 3 eq) and 4-dimethylaminopyridine (DMAP; 20 mg) in 20 ml of acetenitrile was heated to reflux under argon for 5 hrs. on cooling, the resulting solution separated into two layers whereupon the lower layer solidified. The solids were collected and the filtrate was poured into excess saturated aqueous sodium bicarbonate. The aqueous mixture was extracted with dichloromethane; the organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to give an off-white solid. The solid was recrystallized from methanol to give the desired product (0.51 g, 14%) as white needles, mp 71°-73° C.

reactant | 2,4,6-triiodophenol | 4.24 mmol, 2.0 g | IC1=C(C(=CC(=C1)I)I)O | C6H3I3O
reactant | perfluoroheptanoic anhydride | 12.7 mmol, 10.3 g, 3 eq | FC(C(=O)OC(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C14F26O3
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,4,6-Triiodophenol perfluoroheptanoate | 0.51 g, 14% | FC(C(=O)OC1=C(C=C(C=C1I)I)I)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C13H2F13I3O2
